US07091220B2
[(2,3-Dimethoxy-phenyl)-(4-nitro-1H-indol-3-yl)-methyl]-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 4-nitro-1H-indole and (2,3-dimethoxy-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 2,3-dimethoxy-benzaldehyde and dimethylamine.

reactant | 4-nitro-1H-indole | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | (2,3-dimethoxy-benzylidene)-dimethylammonium chloride | [Cl-].COC1=C(C=[N+](C)C)C=CC=C1OC
reactant | 2,3-dimethoxy-benzaldehyde | COC1=C(C=O)C=CC=C1OC | C9H10O3
reactant | dimethylamine | CNC | C2H7N
product | [(2,3-Dimethoxy-phenyl)-(4-nitro-1H-indol-3-yl)-methyl]-dimethylamine | COC1=C(C=CC=C1OC)C(C1=CNC2=CC=CC(=C12)[N+](=O)[O-])N(C)C | C19H21N3O4
